US04251398
treating cinnamic aldehyde with ethyl vinyl ether to afford 2-ethoxy-4-phenyl-3,4-dihydro-2H-pyran, hydrogenating the resulting product to afford 3-cyclohexylpentane-1,5-diol and finally heating the above diol in the presence of a dehydrogenation catalyst to afford 3-cyclohexyl-pentanolide; or

reactant | cinnamic aldehyde | C1=CC=C(C=C1)/C=C/C=O | C9H8O
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
product | 2-ethoxy-4-phenyl-3,4-dihydro-2H-pyran | C(C)OC1OC=CC(C1)C1=CC=CC=C1 | C13H16O2
